US07935688B2
(1) Synthesis of (4′-{1-ethyl-1-[3-methyl-4-(1-trimethylsilanyloxy-cyclopentylethynyl)-phenyl]-propyl}-2′-methyl-biphenyl-4-yl)-acetic Acid Methyl Ester
(4-Bromo-phenyl)acetic acid methyl ester (Tetrahedron Letters 44 (2003) 331-334; 34 mg, 0.147 mmol), palladium acetate (2.2 mg, 0.010 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl (8.2 mg, 0.020 mmol), potassium phosphate (62 mg, 0.294 mmol) and water (0.2 mL) were added to a solution of 2-(4-{1-ethyl-1-[3-methyl-4-(1-trimethylsilanyloxy-cyclopentylethynyl)-phenyl]-propyl}-2-methyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (Example 32-(4); 54.6 mg, 0.098 mmol) in toluene (2 mL). After replacement with nitrogen, the mixture was stirred at 100° C. for 2.5 hours. The reaction mixture was then poured into a saturated aqueous sodium bicarbonate solution, followed by extraction with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane:ethyl acetate=4:1) to give the target compound as a colorless oil (36.5 mg, 64%).

reactant | (4-Bromo-phenyl)acetic acid methyl ester | 0.147 mmol, 34 mg | COC(CC1=CC=C(C=C1)Br)=O | C9H9BrO2
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl | 0.020 mmol, 8.2 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium phosphate | 0.294 mmol, 62 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-(4-{1-ethyl-1-[3-methyl-4-(1-trimethylsilanyloxy-cyclopentylethynyl)-phenyl]-propyl}-2-methyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.098 mmol, 54.6 mg | C(C)C(CC)(C1=CC(=C(C=C1)C#CC1(CCCC1)O[Si](C)(C)C)C)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C35H51BO3Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.010 mmol, 2.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 0.2 mL | O | H2O
product | (4′-{1-ethyl-1-[3-methyl-4-(1-trimethylsilanyloxy-cyclopentylethynyl)-phenyl]-propyl}-2′-methyl-biphenyl-4-yl)-acetic Acid Methyl Ester | 36.5 mg, 64% | COC(CC1=CC=C(C=C1)C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)C#CC1(CCCC1)O[Si](C)(C)C)C)CC)C)=O | C38H48O3Si
